US08536214B2
(1-((1-(2,2,2-Trifluoroethylamino)-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol
To a solution of 2,2,2-trifluoro-N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-yl)acetamide (0.172 mmol, 70 mg) in THF (2 mL) was added diborane (1.719 mmol, 1.719 mL) and the whole heated to reflux for 6 h. The reaction mixture was allowed to cool to room temperature before being treated with 2N HCl (3 mL) and left to stand overnight. After this time the crude mixture was applied to an SCX column & eluted with 2N NH3/MeOH. After evaporation, the residue was further purified by prep LCMS to give a clear film (11 mg, 0.028 mmol, 16.3%). MS (ESI): m/z [M+H]+ 394.1.

reactant | 2,2,2-trifluoro-N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-yl)acetamide | 0.172 mmol, 70 mg | FC(C(=O)NC1CCC2=CC(=CC=C12)CN1N=C(C(=C1)CO)C(F)(F)F)(F)F | C17H15F6N3O2
reactant | diborane | 1.719 mmol, 1.719 mL | B#B | B2
reactant | HCl | 2N, 3 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (1-((1-(2,2,2-Trifluoroethylamino)-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | FC(CNC1CCC2=CC(=CC=C12)CN1N=C(C(=C1)CO)C(F)(F)F)(F)F | C17H17F6N3O
